US04663331
3-Methylamino-4-[6-dimethylaminohex-4-ynylamino]-1,2,5-thiadiazole-1,1-dioxide
In a manner similar to Example 1, reaction of 6-dimethylaminohex-4-ynylamine and 3,4-dimethoxy-1,2,5-thiadiazole-1,1-dioxide followed by treatment with methylamine gives the title compound.

reactant | 6-dimethylaminohex-4-ynylamine | CN(CC#CCCCN)C | C8H16N2
reactant | 3,4-dimethoxy-1,2,5-thiadiazole-1,1-dioxide | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
reactant | methylamine | CN | CH5N
product | 3-Methylamino-4-[6-dimethylaminohex-4-ynylamino]-1,2,5-thiadiazole-1,1-dioxide | CNC1=NS(N=C1NCCCC#CCN(C)C)(=O)=O | C11H19N5O2S
